Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
lethargy, shortness of breath 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is an ___ man with hx atrial fibrillation, PPM for
CHB, hypertension, obstructive sleep apnea, CAD status post MI,
seizure disorder, severe persistent asthma, temporal meningioma,
who presents for evaluation of respiratory symptoms,
hyponatremia, aphasic episodes.  So a lot of ___ 
nodes
usually like that I mean I do not know if he can also when I was
ability like everybody-always ___ likes each but that is
more like a long term effect but I do not know if it can also
cause

The patient is had about 10 days of chest congestion and cough
that began after an episode of choking while eating. However, 
the
cough is continued. He has been fatigued and weak. His wife
reports that he has been slightly confused, and they measured a
T-max of 100.4. Due to these symptoms, the patient presented to
___ urgent care today; at that visit, his sodium 
was
noted to be 125, and in light of his prior seizure disorder, he
was referred to the ED for further evaluation.

Of note, the patient was recently seen in our emergency
department for evaluation after a fall. A noncontrast head CT 
did
not reveal any acute process. He had a laceration above the left
eyebrow that was sutured.

Otherwise, he has a history of resected meningioma with an
associated partial seizure disorder. His wife states that over
the last few days, his gait is been slightly unsteady, and that
he has been having episodes of around ___ seconds of aphasia
without any other focal neurologic deficits.  However, this is
not her primary concern regarding the changes that he has had 
for
the past few days, and she wonders why ___ so focused on 
this
specific symptom.

She states he had a temperature to ___ yesterday, otherwise
does not think he has had any fevers, chest pain, abdominal 
pain,
nausea, vomiting, diarrhea, dysuria.

She also notes that he had an episode of hematuria in the
emergency department, which he has never had before.
  
 
Past Medical History:
1. CARDIAC RISK FACTORS: Diabetes, +Dyslipidemia, +Hypertension  

2. CARDIAC HISTORY:  
- presented  ___ with NSTEMI/increased troponin.
Cardiac catheterization on ___ showed no significant 
obstructive disease, though there was evidence of diastolic 
dysfunction on hemodynamic measurement. 
-CABG:  none
-PERCUTANEOUS CORONARY INTERVENTIONS: none 
-PACING/ICD:  none
3. OTHER PAST MEDICAL HISTORY:
1. Seizure disorder  
2. L temporal meningioma; resection on ___  
3. AV node dysfunction - 1st degree AV block 
4. HYPERTENSION - ESSENTIAL, UNSPEC  
5. POSITIVE PPD (RPRT DPH)  
6. Hyperlipidemia LDL goal <100  
7. CAD (coronary artery disease) s/p MI ___ years ago  
8. Cognitive dysfunction  
9. Steroid-induced hyperglycemia  
10. Mood disorder due to a general medical condition  
11. Prediabetes  
12. Abdominal distension  
13. ASTHMA - intubated x2
___. GLAUCOMA - PRIMARY OPEN ANGLE 
15. postherpetic neuralgia - right chest
16. Ascending aorta dilatation (4.8cm)
17. CKD

 
Social History:
___
Family History:
He doesn't know his family well.
Mother died in her ___ - ? Cardiac? Was a smoker.
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: Temp: 100.5, BP: 151/56, HR: 85, RR: 20, O2 sat: 93%, O2
delivery: RA, Wt: 203.92 lb/92.5 kg  
GENERAL: Sleeping, shivering, appears uncomfortable but NAD
HEENT: sclera anicteric, MMM
CARDIAC: regular rate and rhythm, no murmurs, rubs, or gallops
LUNGS: CTABL, no wheezes, rales, or rhonchi, normal WOB on room
air
ABDOMEN: soft, non-tender, non-distended, bowel sounds present,
no rebound or guarding
GU: No foley
EXTREMITIES: warm, well perfused, no cyanosis, trace bilateral
edema
NEURO: Awakens to voice, O x2 (did not know location), unable to
participate further in neurologic exam but face appears 
symmetric

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 
24 HR Data (last updated ___ @ 1119)
    Temp: 98.2 (Tm 98.6), BP: 148/64 (127-170/64-83), HR: 63
(63-71), RR: 18, O2 sat: 95% (91-97), O2 delivery: Ra    
GENERAL:  NAD
HEENT: sclera anicteric, MMM
CARDIAC: regular rate and rhythm, no murmurs, rubs, or gallops
LUNGS: CTAB with no wheezes, rales, or rhonchi, normal WOB on
room air
ABDOMEN: soft, non-tender, non-distended, bowel sounds present,
no rebound or guarding
EXTREMITIES: warm, well perfused, no cyanosis, trace bilateral
edema
NEURO: AxOx3 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:45PM BLOOD WBC-9.8 RBC-3.75* Hgb-11.6* Hct-31.8* 
MCV-85 MCH-30.9 MCHC-36.5 RDW-12.1 RDWSD-37.0 Plt ___
___ 03:45PM BLOOD Neuts-69.4 Lymphs-16.8* Monos-11.5 
Eos-1.3 Baso-0.5 Im ___ AbsNeut-6.76* AbsLymp-1.64 
AbsMono-1.12* AbsEos-0.13 AbsBaso-0.05
___ 03:45PM BLOOD ___ PTT-31.2 ___
___ 03:45PM BLOOD Glucose-102* UreaN-16 Creat-1.0 Na-126* 
K-3.7 Cl-86* HCO3-27 AnGap-13
___ 03:45PM BLOOD ALT-23 AST-33 CK(CPK)-579* AlkPhos-69 
TotBili-0.7
___ 03:45PM BLOOD CK-MB-4 proBNP-441
___ 03:45PM BLOOD cTropnT-0.03*
___ 08:45PM BLOOD cTropnT-0.03*
___ 03:45PM BLOOD Albumin-4.0 Calcium-9.4 Phos-2.8 Mg-1.7
___ 03:45PM BLOOD Osmolal-259*
___ 03:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS:
===============
___ 04:59AM BLOOD WBC-5.9 RBC-3.44* Hgb-10.4* Hct-29.7* 
MCV-86 MCH-30.2 MCHC-35.0 RDW-11.8 RDWSD-37.2 Plt ___
___ 04:59AM BLOOD Glucose-110* UreaN-11 Creat-0.9 Na-133* 
K-4.0 Cl-96 HCO3-27 AnGap-10
___ 04:59AM BLOOD Calcium-8.4 Phos-3.2 Mg-1.9

MICRO:
======
___ 8:30 pm BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Preliminary): 
      GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ (___ ON 
___. 
      GRAM POSITIVE COCCI IN CLUSTERS. 

STUDIES:
========
CHEST (PA & LAT) ___
Increased right basilar opacity, new compared to ___ 
and may 
reflect developing pneumonia. 

CTA HEAD & CTA NECK ___. Chronic findings on head CT as described on the previous CT 
of ___.  No acute hemorrhage. 
2. No significant abnormalities on CT angiography of the head 
neck.  No 
evidence of vascular occlusion stenosis or aneurysm greater than 
3 mm in size. 

 
Brief Hospital Course:
___ man with hx atrial fibrillation, PPM for CHB, 
hypertension, obstructive sleep apnea, CAD status post MI, 
seizure disorder, severe persistent asthma, temporal meningioma, 
who presents for evaluation of respiratory symptoms, 
hyponatremia, aphasic episodes. 

ACUTE ISSUES 
============
# Pneumonia
# Aspiration 
Patient had witnessed episode of aspiration about 10 days prior 
to admission. He then sytemic symptoms as well as shortness of 
breath. He was seen by speech and swallow and was not felt to be 
aspirating, but likely is just eating too fast. He was initially 
started on ceftriaxone and azithromycin for CAP. He was given 
ceftazidime for one day. He was then transitioned to Unasyn on 
___ and continued a 5 day course of azithromycin. He was 
transitioned to Augmentin to complete a course of antibiotics on 
___. 

# Toxic metabolic encephalopathy 
Initial concern the patient was either experiencing TIA, stroke, 
or breakthrough seizure based on reports of 15-second aphasic 
episodes, however per further discussion with his wife this is 
not far off of his baseline. His progressive lethargy over days 
prior to admission was probably secondary to infection and 
hyponatremia. His mental status improved to near his baseline 
with treatment of these, however he would likely benefit from a 
neurocognitive evaluation as an outpatient. 

# Hyponatremia 
He appared euvolemic with elevated urine sodium and osms most 
consistent with SIADH in setting of pulmonary illness and 
possibly AED. His oxcarbazepine was down-titrated as he was 
started on lacosamide. He subsequently had an improvement in his 
serum sodium. 

# Seizure disorder 
Neurology was consulted in the emergency department given 
initial reports of aphasic episodes. Given his hyponatremia, 
they recommended tapering off of his oxcarbazepine and starting 
lacosamide as replacement. He tolerated this well without any 
recurrence of seizures. His oxcarbazepine was decreased to 300 
mg TID and then 150 TID for 3 days (___). It should be 
stopped on ___ and at this point lacosamide can be increased 
to 150 daily. He continued his Keppra at his former dose. 

# GPC growing in blood culture
Per Micro lab, ___ bottles from ___ growing 2 species of GPCs.
One appears to be consistent with alpha-hemolytic strep and
another may be coag-negative staph. Suspect likely contaminants. 


# Hypertension 
On a complex regimen of losartan, hydralazine, amlodipine, 
diltiazem, HCTZ and minoxidil at home. These were held on 
admission with concern for potential decompensation. His 
losartan, hydralazine, and diltiazem were all added back prior 
to discharge. 

# Atrial fibrillation
He continued his home apixaban and management of diltiazem as 
above. 

CHRONIC ISSUES
===============
# CAD status post MI 
He continued his home atorvastatin. 

# OSA on home BiPAP 
He continued his home BiPAP. 

# Glaucoma 
He continued his home meds. 

TRANSITIONAL ISSUES:
====================
[ ] He will complete a course of Augmentin on ___. 
[ ] He would benefit from outpatient neurocognitive testing to 
assess his baseline level of cognitive impairment. 
[ ] Several of his home antihypertensives were held upon 
discharge (amlodipine, HCTZ, and minoxidil). Please assess his 
blood pressure and add these back as needed.
[ ] He was hyponatremic, please check a BMP on ___. 
[ ] Please continue oxcarbazepine 150 mg TID ___ and 
then STOP. 
[ ] Please increase lacosamide to 150 mg twice daily on ___. 

CODE: Full 
CONTACT: ___, wife, ___

Greater than 30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
2. Diltiazem 30 mg PO TID 
3. HydrALAZINE 20 mg PO BID 
4. amLODIPine 10 mg PO DAILY 
5. HydrALAZINE 10 mg PO QPM 
6. Montelukast 10 mg PO QPM 
7. OXcarbazepine 600 mg PO TID 
8. Atorvastatin 40 mg PO QPM 
9. Minoxidil 2.5 mg PO DAILY 
10. Ipratropium-Albuterol Neb 1 NEB NEB Q4H:PRN wheezing, SOB 
11. Hydrochlorothiazide 25 mg PO DAILY 
12. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES TID 
13. brimonidine 1 DROP BOTH EYES BID 
14. omalizumab 300 mg subcutaneous Q28Days 
15. triamcinolone acetonide 0.5 % topical BID 
16. Apixaban 5 mg PO BID 
17. Mometasone Nasal Spray  (*NF*) 2 SPRAYS Other DAILY 
18. Losartan Potassium 100 mg PO DAILY 
19. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
20. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
21. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
22. LevETIRAcetam 750 mg PO BID 
23. LevETIRAcetam 1000 mg PO QPM 
24. Calcium Carbonate 500 mg PO BID 
25. Loratadine 10 mg PO DAILY 
26. Multivitamins 1 TAB PO DAILY 
27. Fish Oil (Omega 3) 1000 mg PO DAILY 
28. Vitamin D 1000 UNIT PO DAILY 
29. Ipratropium-Albuterol Neb 1 NEB NEB BID 
30. Flovent HFA (fluticasone) 220 mcg/actuation inhalation BID 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
Please stop ___.  LACOSamide 100 mg PO BID Duration: 1 Day 
Increase to 150 BID on ___.  LACOSamide 150 mg PO BID 
Please start increased dose ___.   
4.  OXcarbazepine 150 mg PO TID Duration: 1 Day 
Please stop ___.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
6.  Apixaban 5 mg PO BID  
7.  Atorvastatin 40 mg PO QPM  
8.  brimonidine 1 DROP BOTH EYES BID  
9.  Calcium Carbonate 500 mg PO BID  
10.  Diltiazem 30 mg PO TID  
11.  Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES TID  
12.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
13.  Fish Oil (Omega 3) 1000 mg PO DAILY  
14.  Flovent HFA (fluticasone) 220 mcg/actuation inhalation BID  

15.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
16.  HydrALAZINE 20 mg PO BID  
17.  HydrALAZINE 10 mg PO QPM  
18.  Ipratropium-Albuterol Neb 1 NEB NEB BID  
19.  Ipratropium-Albuterol Neb 1 NEB NEB Q4H:PRN wheezing, SOB  
20.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
21.  LevETIRAcetam 750 mg PO BID  
22.  LevETIRAcetam 1000 mg PO QPM  
23.  Loratadine 10 mg PO DAILY  
24.  Losartan Potassium 100 mg PO DAILY  
25.  Mometasone Nasal Spray  (*NF*) 2 SPRAYS Other DAILY  
26.  Montelukast 10 mg PO QPM  
27.  Multivitamins 1 TAB PO DAILY  
28.  omalizumab 300 mg subcutaneous Q28Days  
29.  triamcinolone acetonide 0.5 % topical BID  
30.  Vitamin D 1000 UNIT PO DAILY  
31. HELD- amLODIPine 10 mg PO DAILY  This medication was held. 
Do not restart amLODIPine until you see your doctor. 
32. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until you see your 
doctor.
33. HELD- Minoxidil 2.5 mg PO DAILY  This medication was held. 
Do not restart Minoxidil until you see your doctor

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pneumonia 
Hyponatremia 
Seizure disorder 
Toxic metabolic encephalopathy 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure being involved in your care!

Why you were hospitalized:
==========================
- You had pneumonia, an infection in your lungs. 
- You had low sodium in your blood. This may have been from one 
of your anti-seizure medications or from the pneumonia. 

What happened in the hospital:
==============================
- You were given antibiotics for a lung infection. 
- Your anti-seizure medications were changed. 

What you should do when you leave the hospital:
===============================================
- Continue to take your medications as prescribed. 
- Attend all of your follow-up appointments. 

We wish you the best!
Your ___ Team

 
Followup Instructions:
___